* BZX84B5V1LY D model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2020/03/12
********************A C
.SUBCKT BZX84B5V1LY 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-9.282E-11*((-V*(1+5.621E-04*(TEMP-T0)+3.151E-07*(TEMP-T0)**2))**9.701E+00),0)}
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=526.44E-18
+ N=1.0354
+ RS=98.283E-3
+ IKF=36.682
+ CJO=49.735E-12
+ M=0.2989
+ VJ=0.5001
+ ISR=28.000E-12
+ NR=5.0
+ BV=5.15
+ IBV=5.0000E-3
+ NBV=1.4
+ TBV1=0.1800E-3
+ NBVL=5.7
+ IBVL=3.4000E-3
.MODEL D2 D
+ IS=526.44E-18
+ N=1.0354
+ RS=98.283E-3
+ IKF=36.682
+ M=0.2989
+ VJ=0.5001
.ENDS


















