.SUBCKT C1206C822K5RACAUTO 1 6
*Temp = 25°C, Bias = 0VDC, Center Frequency = 10000 Hz
*KEMET Model RLC Cerm
R1 3 4 28.1602916717529
R2 2 5 17.3999996185303
R3 1 6 99999997952
L1 1 2 5.70000047162012E-11
L2 2 3 1.08300008960782E-09
C1 4 6 7.90199994327168E-09
C2 5 6 4.19999980926514E-12
.ENDS