* CDZ5_1B D model
* PKG: VMN2,Vz=5.1V at Iz=5mA,Pd=100mW
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/10/21
****************A C
.SUBCKT CDZ5_1B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-1.3685E-11*((-V*(1+0.852E-03*(TEMP-T0)+4.001E-14*(TEMP-T0)**2))**8.5093E+00+									
+           (-V*(1+0.552E-03*(TEMP-T0)+4.001E-14*(TEMP-T0)**2))**9.093E+00),0)}																																																											
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=77.726E-18
+ N=.99501
+ RS=.2912
+ IKF=39.512
+ CJO=34.870E-12
+ M=.31641
+ VJ=.49364
+ ISR=1.0229E-12
+ NR=3.1000
+ BV=5.1400
+ IBV=1.8000E-2
+ TT=5.0000E-9
+ NBV=1.0000
+ TBV1=0.2300E-3
+ NBVL=6.1500
+ IBVL=0.47000E-3
.MODEL D2 D
+ IS=77.726E-18
+ N=.99501
+ RS=.2912
+ IKF=39.512
+ M=.31641
+ VJ=.49364
.ENDS CDZ5_1B
