* CIP: NDA is required as of 08/29/2019
*****************************************************************************
* ISO1211
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved. 
* TI Confidential - NDA Restrictions per NDA# xxxx-xx-xx-xxxxxM                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
* Released by:Texas Instruments Inc.
* Part: ISO1211
* Date: 04OCT2018
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: ISO1211EVM
* EVM Users Guide: SLLU258A–May 2017–Revised January 2018
* Datasheet: SLLSEY7E -JUNE 2017-REVISED AUGUST 2018
* Topologies Supported: NA
*
* Model Version: Final 1.20
*
*****************************************************************************
*
* Updates:
*
* Final 1.20
* Bugfix : SENSE pin voltage has been kept as relative to FGND internally to correct FGND pin's behaviour in fault condition. 
*
* Final 1.10
* Bugfix :Made input current dependent on input voltage and changed voltage transition threshold on field side as suggested by PL.
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Accurate Current Limit
*      b. High Input-Voltage Range With Reverse Polarity Protection: ±60 V
*      c. Propagation delay
*      d. V-I characteristics
*      e. VCC1 functionality
*      f. Enable functionality
*      g. Output rise and fall time
*      h. Reverse current blocking
* 2. Temperature effects, Quiescent current and CMTI have not been modeled. 
*
******************************************************************************
.SUBCKT ISO1211_TRANS EN FGND GND1 IN OUT SENSE SUB VCC1  
X_U20         VREG N17030740 IN_OUT AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_E32         N16856382 GND1 VCC1 GND1 0.4
X_U689         OUT_P N16914896 BUF_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U684         N16810737 IN_COMP d_d1 PARAMS:
X_U19         UVLO1 N16856514 N16856441 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_C8         GND1 OUT_P  1n  
X_S8    ENP_OK GND1 OUT N16917650 ISO1211_TRANS_S8 
R_R61         OUT_P N16810737  7 TC=0,0 
V_V9         N16850498 GND1 2
X_S6    N16914896 GND1 N16917650 VCC1 ISO1211_TRANS_S6 
X_S7    N16916102 GND1 N16917650 GND1 ISO1211_TRANS_S7 
V_V12         N168505410 GND1 0.2
X_U691         EN N16856495 N16856382 N16856514 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U18         ENP_OK IN_OUT IN_COMP AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_R62         OUT_P N16809490  72.69 TC=0,0 
X_U683         IN_COMP N16809490 d_d1 PARAMS:
X_U690         N16914896 N16916102 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_E29         N16856495 GND1 VCC1 GND1 0.7
E_ABM7         VREG 0 VALUE { LIMIT(0.25*V(N17114036),1.25,0)    }
E_E33         N17114038 FGND N17114036 VREG 1
X_U687         SENSE N17030694 N17030711 N17030740 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_E34         N17114036 GND1 SENSE FGND 1
C_C5         GND1 ENP_OK  1n  
V_V7         N17030711 FGND 0.65
R_R64         ENP_OK N16856441  23 TC=0,0 
V_V5         N17030694 FGND 7.75
C_C7         GND1 OUT_P  1n  
X_U688         VCC1 N16850498 N168505410 UVLO1 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
R_R63         IN N17114038  1u TC=0,0 
.ENDS ISO1211_TRANS
*$
.subckt ISO1211_TRANS_S8 1 2 3 4  
S_S8         3 4 1 2 _S8
RS_S8         1 2 1G
.MODEL         _S8 VSWITCH Roff=1e6 Ron=50 Voff=0.2 Von=0.8
.ends ISO1211_TRANS_S8
*$
.subckt ISO1211_TRANS_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=1e6 Ron=1m Voff=0.2 Von=0.8
.ends ISO1211_TRANS_S6
*$
.subckt ISO1211_TRANS_S7 1 2 3 4  
S_S7         3 4 1 2 _S7
RS_S7         1 2 1G
.MODEL         _S7 VSWITCH Roff=1e6 Ron=1m Voff=0.2 Von=0.8
.ends ISO1211_TRANS_S7
*$
.subckt d_d1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.01
.ends d_d1
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  X PARAMS: VTHRESH=0.5 VDD=1 VSS=0
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , + {VDD},{VSS})}}
RINT YINT X 1
CINT X 0 1p
.ENDS BUF_BASIC_GEN
*$
