* UDZV3_0B D model
* PKG: UMD2,Vz=3.0V at Iz=5mA,Pd=200mW
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/10/08
******************A C
.SUBCKT  UDZV3_0B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-6.968E-07*((-V*(1+9.504E-06*(TEMP-T0)+2.213E-13*(TEMP-T0)**2))**6.034E+00+
+           (-V*(1+6.504E-04*(TEMP-T0)+2.213E-13*(TEMP-T0)**2))**7.667E+00),0)}
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=2.5257E-13
+ N=1.2810
+ RS=.16667
+ IKF=142.56
+ CJO=6.7739E-11
+ M=.76025
+ VJ=.99859
+ ISR=1.2315E-10
+ NR=5.4000
+ BV=4.7000
+ TT=2.7000E-8
+ NBVL=4.0000
+ IBVL=6.0000
.MODEL D2 D
+ IS=2.5257E-13
+ N=1.2810
+ RS=.16667
+ IKF=142.56
+ M=.76025
+ VJ=.99859
.ENDS UDZV3_0B

















