* source K
C_C1         0 N15055  6.04u  TC=0,0 
R_R3         0 N15076  25.1 TC=0,0 
R_R4         N15076 N15091  0.94 TC=0,0 
L_L1         N15091 N15103  10.4u  
R_R5         0 N15103  19.8 TC=0,0 
X_U1         N15055 N15076 Sw_tClose PARAMS: tClose=10u ttran=1u Rclosed=0.01
+  Ropen=1Meg
.IC         V(N15055 )=1kV
